US04335048
To a suspension of ethyl 8-allyl-5-(2-hydroxypropoxy)-4-oxo-4H-1-benzopyran-2-carboxylate (1.2 g) in ethanol (50 ml) was added 5% palladium on charcoal (0.2 g). The resulting suspension was then hydrogenated at a pressure of 4 atmospheres. After 30 minutes hydrogen uptake had ceased. The reaction mixture was filtered and the filtrate evaporated in vacuo. The residual solid was crystallised from ethanol giving ethyl 5-(2-hydroxypropoxy)-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylate identical in all respects with authentic material.

reactant | ethyl 8-allyl-5-(2-hydroxypropoxy)-4-oxo-4H-1-benzopyran-2-carboxylate | 1.2 g | C(C=C)C1=CC=C(C=2C(C=C(OC21)C(=O)OCC)=O)OCC(C)O | C18H20O6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.2 g | [Pd] | Pd
product | ethyl 5-(2-hydroxypropoxy)-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylate | OC(COC1=CC=C(C2=C1C(C=C(O2)C(=O)OCC)=O)CCC)C | C18H22O6
